US04968708
In 200 ml of acetic acid were dissolved 22.0 g of 3,4,5-trimethoxyaniline and 30.0 g of ammonium thiocyanate. Under ice cooling, 20.0 ml of a solution of 20.0 g of bromine in acetic acid was dropwise added to the solution over one hour. After allowing to stand at room temperature overnight, 200 ml of water was added to the mixture. The mixture was concentrated at 60° C. to about half and rendered alkaline with ammonia water. The precipitated crystals, 30.1 g, were taken out by filtration. The crystals were refluxed in an aqueous ethanol solution of sodium sulfite for one hour to give 13.6 g of 2-amino-5,6,7-trimethoxybenzothiazole. The compound, 9.6 g, was reacted with 9.6 g of propargyl bromide to give 7.6 g of 2-imino-5,6,7-trimethoxy 3-propargylbenzothiazole hydrobromide. The hydrobromide, 5.4 g, was cyclized with sodium ethoxide (Na, 0.4 g), which was then reacted with hydrochloric acid to form the hydrochloride. The hydrochloride, 5.4 g, was added to a mixture of 6 ml of phosphorus oxychloride and 25 ml of dry dimethylformamide. After stirring at room temperature for one hour, the mixture was heated at 60° C for 7 hours. The reaction solution was evaporated to dryness and the residue was dissolved in water. The solution was alkalized with potassium carbonate and extracted with chloroform. From the chloroform phase, 3.21 g of 3-formyl-7-methoxy-2-methylimidazo[2,1-b]benzothiazole was obtained. The obtained formyl compound was dissolved in 50 ml of ethanol and 3.1 g of sodium borohydride was added to the solution. After stirring at room temperature for one hour, the reaction mixture was warmed at 50° C. for 15 minutes. The reaction mixture was evaporated to dryness and the residue was treated with water. The mixture was filtered and were recrystallized from isopropyl alcohol to give 2.5 g of the title compound.

reactant | 3,4,5-trimethoxyaniline | 22.0 g | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
reactant | ammonium thiocyanate | 30.0 g | [S-]C#N.[NH4+]
reactant | bromine | 20.0 g | BrBr | Br2
reactant | water | 200 ml | O | H2O
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 2-amino-5,6,7-trimethoxybenzothiazole | 13.6 g | NC=1SC2=C(N1)C=C(C(=C2OC)OC)OC | C10H12N2O3S
